US04797401
(E) 4-Methanesulphonamidophenethyl methanesulphonate
4-Aminophenethyl alcohol (2.74 g) was dissolved in dichloromethane (10 ml) and pyridine (5 ml) and then methanesulphonyl chloride (2×2.52 g) was added in 2 portions one hour apart, with stirring at 0°. After a further 2 hours, the mixture was acidified (to pH about 2) with 2N aqueous hydrochloric acid. The title compound (4.85 g) was filtered from the two-phase mixture. The organic layer plus a further dichloromethane extract of the aqueous layer yielded a further 0.95 g product after drying (sodium sulphate) and evaporation. The combined solids were washed with ether and recrystallized from ethyl acetate, yield of the title compound 4.13 g, m.p. 135°-7°.

reactant | 4-Aminophenethyl alcohol | 2.74 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonyl chloride | 2.52 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Methanesulphonamidophenethyl methanesulphonate | 0.95 g | CS(=O)(=O)OCCC1=CC=C(C=C1)NS(=O)(=O)C | C10H15NO5S2
